US06562978B1
4-{[1-(Trifluoroacetyl)-4-piperidinyl]methyl}benzonitrile
To a solution of the title compound of reference example 93 (2 g, 8.5 mmol) in water (10 ml) was added dropwise 1N aqueous sodium hydroxide solution (12.7 ml) at 0° C. The resulting mixture was extracted with ethyl acetate (100 ml). The extract was washed with saturated sodium chloride solution (500 ml), dried over sodium sulfate and concentrated in vacuo to give 4-(4-cyanobenzyl)piperidine (1.7 g, 100%). Trifluoroacetic anhydride (20 ml) was added to a solution of 4-(4-cyanobenzyl)piperidine (1.7 g, 8.5 mmol) prepared above in dichloromethane (5 ml). The mixture was stirred at room temperature for 7 h. The whole was concentrated in vacuo and the resulting residue was purified by flash column chromatography (silica gel 25 g, ethyl acetate/hexane=1/5 to 1/2) to give the title compound (2.3 g, 100%) as pale yellow oil.

reactant | Trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(4-cyanobenzyl)piperidine | 8.5 mmol, 1.7 g | C(#N)C1=CC=C(CC2CCNCC2)C=C1 | C13H16N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-{[1-(Trifluoroacetyl)-4-piperidinyl]methyl}benzonitrile | 2.3 g, 100% | FC(C(=O)N1CCC(CC1)CC1=CC=C(C#N)C=C1)(F)F | C15H15F3N2O
